US07846929B2
N-Cbz Glycine (9.6 mmol) was dissolved in DMF (30 mL). Diisopropylethylamine (40 mmol), EDC HCl (10 mmol), HOAt (10 mmol) and dimethylamine hydrochloride (10 mmol) were subsequently added to the solution. The reaction was allowed to stir overnight. Ethyl acetate (100 mL) was added to the solution and the organic was washed with 1 N HCl followed by a wash with an aqueous solution of saturated sodium bicarbonate. The organic layer was dried with magnesium sulfate and concentrated to give 1.02 g of 2-(benzylamino)-N,N-dimethylacetamide. 2-(benzylamino)-N,N-dimethylacetamide (4.3 mmol) was dissolved in methanol (20 mL) and combined with 5% loaded Pd/C (0.21 mmol). The solution was stirred under a hydrogen filled balloon for four hours then filtered through celite and concentrated to give 402 mg of 2-amino-N,N-dimethylacetamide as a yellow oil.

reactant | N-Cbz Glycine | 9.6 mmol | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
reactant | Diisopropylethylamine | 40 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EDC HCl | 10 mmol | CCN=C=NCCCN(C)C.Cl
reactant | HOAt | 10 mmol | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | dimethylamine hydrochloride | 10 mmol | Cl.CNC
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-(benzylamino)-N,N-dimethylacetamide | 1.02 g | C(C1=CC=CC=C1)NCC(=O)N(C)C | C11H16N2O
